US08476297B2
Phenyl 1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate
To a solution of 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (100 mg, 0.36 mmol, example 9 (step 3) and DIEA (62.8 μL, 0.36 mmol) in DCM (2 mL) was added phenyl chloroformate (45.2 μL, 0.36 mmol). The resulting mixture was reacted under the same conditions as described for example 10 to give 112 mg (78% yield) of the title compound as an off-white oil. MS (ESI, positive ion) m/z: 398 (M+H).

reactant | 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)C1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 0.36 mmol, 62.8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | phenyl chloroformate | 0.36 mmol, 45.2 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | Phenyl 1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 112 mg, 78% yield | FC(C1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(=O)OC1=CC=CC=C1)(F)F | C23H18F3NO2
